US06888001B2
3-(1-Methyl-3-(R)-pyrrolidinyloxy)-pyridine
To 164 mg (1 mmol) of 3-(3-(R)-pyrrolidinyloxy)-pyridine were added 300 mg (10 mmol) of paraformaldehyde, 314 mg (5 mmol) of NaCNBH3, and 5 mL of dry THF at room temperature. To the suspension was added 2 mL of trifluoroacetic acid dropwise. The suspension was allowed to stir at room temperature overnight. Next day, to the suspension was slowly added a mixture containing 20 mL of 4N NaOH and ice-chips. The mixture was then extracted with ethyl acetate (2×40 mL). The combined organic layers were dried over Na2SO4, and concentrated under reduced pressure. The crude product was purified by flash chromatography (15:1, CHCl3:MeOH) to obtain 9 mg (5%) of a clear oil: 1H NMR (300 MHz, CD3OD) δ 8.19 (1H, d, J=1.7 Hz), 8.12 (1H, m). 7.38 (2H, m), 4.99 (1H, m), 2.94-2.80 (3H, m), 2.52-1.93 (3H, m), 2.40 (3H, s); Mass spectrum (ESI) m/z 179.4 (M+H+).

reactant | 3-(3-(R)-pyrrolidinyloxy)-pyridine | 1 mmol, 164 mg | N1C[C@@H](CC1)OC=1C=NC=CC1 | C9H12N2O
reactant | paraformaldehyde | 10 mmol, 300 mg | C=O | CH2O
reactant | NaCNBH3 | 5 mmol, 314 mg | [BH3-]C#N.[Na+]
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 4N, 20 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(1-Methyl-3-(R)-pyrrolidinyloxy)-pyridine | 9 mg, 5% | CN1C[C@@H](CC1)OC=1C=NC=CC1 | C10H14N2O
